US07479254B2
α-pinene oxide:
2.1 mL of methylacetoacetate (20 mmol) and 1.8 mL of n-butanol (20 mmol) were added into 20 mL of toluene and stirred at 30° C. and 400 rpm for 15 minutes. 155 mg of the catalyst (FerlipaseCB(7) polymer beads) prepared in (2) was added into the mixture to initiate reaction. A clear liquid sample was periodically sampled and analyzed using gas chromatography to identify n-butyl acetoacetate, which was the reaction product.

reactant | methylacetoacetate | 20 mmol, 2.1 mL | COC(CC(=O)C)=O | C5H8O3
reactant | n-butanol | 20 mmol, 1.8 mL | C(CCC)O | C4H10O
reactant | n-butyl acetoacetate | C(CC(=O)C)(=O)OCCCC | C8H14O3
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
product | α-pinene oxide | CC1(C2CC1C3(C(C2)O3)C)C | C10H16O
